US20010036944A1
c. Preparation of 1-(6-bromo-benzo[1,3]dioxol-4-yl)ethanol
To 150 mL tetrahydrofuran, was added 6-bromo-benzo[1,3]dioxole 4carbaldehyde (15 g, 65.4 mmol). To the solution was added a solution of methyl magnesium bromide (1.0 M) in din butyl ether (72 mL) followed by exotherm and solid formation. The mixture was stirred at 25° C. for 2.5 hours and evaporated in vacuo to a solid. The mixture was suspended in ethyl acetate washed with 1N citric acid, brine, and dried over anhydrous magnesium sulfate. The mixture was filtered and evaporated to an oil. The oil was induced to crystallize from ethyl acetate and hexane giving a white solid which was filtered and dried in vacuo giving a solid, 10.48 g, 65.4% yield. NMR spectra and elemental analysis were consistent with the structure.

reactant | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
reactant | 6-bromo-benzo[1,3]dioxole 4carbaldehyde | 65.4 mmol, 15 g | BrC=1C=C(C2=C(OCO2)C1)C=O | C8H5BrO3
reactant | methyl magnesium bromide | 1.0 M | C[Mg]Br
solvent | din butyl ether | 72 mL | C(CCC)OCCCC | C8H18O
product | 1-(6-bromo-benzo[1,3]dioxol-4-yl)ethanol | 65.4% yield | BrC=1C=C(C2=C(OCO2)C1)C(C)O | C9H9BrO3
